US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 4-Phenylbutylamide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl]-L-proline hydrochloride (300 mg, 0.83 mmol) and 4-phenylbutylamine (0.39 mL, 2.5 mmol) provided, after treatment with HCl in Et2O, 170 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 4-phenylbutylamide as a powder.

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 4-phenylbutylamide | COC=1C=C(C=C(C1OC)OC)C(CC(CCCC1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | C26H34N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 4-Phenylbutylamide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(CC(CCCC1=CC=CC=C1)NC([C@H]1NCCC1)=O)=O | InChI=1S/C26H34N2O5.ClH/c1-31-23-15-19(16-24(32-2)25(23)33-3)22(29)17-20(28-26(30)21-13-8-14-27-21)12-7-11-18-9-5-4-6-10-18;/h4-6,9-10,15-16,20-21,27H,7-8,11-14,17H2,1-3H3,(H,28,30);1H/t20?,21-;/m0./s1
